US07396847B2
(5R)-3-(5-Bromopyrid-2-yl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one
(5R)-5-(Azidomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one (5.60 g, 18.7 mM) was dissolved in 1,4-dioxane (12 ml). Bicyclo[2.2.1]hepta-2,5-diene (10.3 g, 112 mM) was added and the yellow solution was stirred at 100° for 16 hours. The brown solution was concentrated and the residue was purified by flash chromatography eluting with ethyl acetate. Relevant fractions were combined to give the desired product (4.36 g) as a beige solid.

reactant | (5R)-5-(Azidomethyl)-3-(5-bromopyrid-2-yl)-1,3-oxazolidin-2-one | 18.7 mM, 5.60 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=NC=C(C=C1)Br | C9H8BrN5O2
reactant | Bicyclo[2.2.1]hepta-2,5-diene | 112 mM, 10.3 g | C12C=CC(C=C1)C2 | C7H8
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(5-Bromopyrid-2-yl)-5-(1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 4.36 g | BrC=1C=CC(=NC1)N1C(O[C@H](C1)CN1N=NC=C1)=O | C11H10BrN5O2
